US07414076B2
Preparation of 3-(2-methoxy-1-methylethyl)amino-1-propanesulfonic acid (Compound EI)
To a solution of 2-amino-1-methoxypropane (5.0 g, 17.8 mmol) in tetrahydrofuran (25 mL) was slowly added 1,3-propane sultone (2.12 g, 17.0 mmol). The mixture was stirred at reflux for 4 h. The reaction mixture was cooled to room temperature. The solid product was collected by filtration, washed with acetone (2×25 mL), and dried in a vacuum oven (50° C.), to afford compound EI (3.1 g, 86%). 1H NMR (D2O, 500 MHz) δ ppm 3.53 (m, 1H), 3.41 (m, 2H), 3.27 (s, 3H), 3.11 (m, 2H), 2.89 (t, 2H, J=7.3 Hz), 2.00 (m, 2H), 1.18 (d, 3H, J=5.9 Hz). 13C NMR (D2O, 125 MHz) δ ppm 71.73, 58.80, 53.79, 48.08, 43.55, 21.52, 12.79. ES-MS 210 (M−1).

reactant | 2-amino-1-methoxypropane | 17.8 mmol, 5.0 g | NC(COC)C | C4H11NO
reactant | 1,3-propane sultone | 17.0 mmol, 2.12 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-(2-methoxy-1-methylethyl)amino-1-propanesulfonic acid | COCC(C)NCCCS(=O)(=O)O | C7H17NO4S
